US07371743B2
(c) 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(3-dimethylamino-pyrrolidin-1-yl)-benzamide
Prepared analogously to Example 1f from 3-chloro-4-(3-dimethylamino-pyrrolidin-1-yl)-benzoic acid and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine with TBTU and TEA in DMF.

reactant | 3-chloro-4-(3-dimethylamino-pyrrolidin-1-yl)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1CC(CC1)N(C)C | C13H17ClN2O2
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(3-dimethylamino-pyrrolidin-1-yl)-benzamide | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1N1CC(CC1)N(C)C | C22H25Cl2N5O
